** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=239e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=5e-6 W=75e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=504e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=337e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=212e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=372e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=481e-6
mNormalTransistorNmos11 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=239e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=352e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=110e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=110e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=369e-6
mNormalTransistorPmos16 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=5e-6 W=504e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=543e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=543e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=479e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=479e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=75e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_5

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 9.99001 mW
** Area: 14927 (mu_m)^2
** Transit frequency: 34.9331 MHz
** Transit frequency with error factor: 34.8767 MHz
** Slew rate: 59.4431 V/mu_s
** Phase margin: 55.004°
** CMRR: 104 dB
** VoutMax: 3 V
** VoutMin: 0.150001 V
** VcmMax: 5.20001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorNmos: 138.646 muA
** NormalTransistorNmos: 243.681 muA
** NormalTransistorPmos: -227.603 muA
** NormalTransistorPmos: -344.738 muA
** NormalTransistorPmos: -227.603 muA
** NormalTransistorPmos: -344.738 muA
** DiodeTransistorNmos: 227.604 muA
** NormalTransistorNmos: 227.604 muA
** NormalTransistorNmos: 234.27 muA
** NormalTransistorNmos: 234.269 muA
** NormalTransistorNmos: 117.135 muA
** NormalTransistorNmos: 117.135 muA
** NormalTransistorNmos: 916.126 muA
** NormalTransistorPmos: -916.125 muA
** DiodeTransistorPmos: -916.126 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -138.645 muA
** NormalTransistorPmos: -138.646 muA
** DiodeTransistorPmos: -243.68 muA
** DiodeTransistorPmos: -243.681 muA


** Expected Voltages: 
** ibias: 1.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.44001  V
** inputVoltageBiasXXpXX2: 2.92101  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.72001  V
** outSourceVoltageBiasXXpXX2: 4.23501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.673001  V
** out1: 0.555001  V
** sourceGCC1: 3.63801  V
** sourceGCC2: 3.63801  V
** sourceTransconductance: 1.81901  V
** inner: 3.72001  V


.END