** Name: SimpleTwoStageOpAmp_SimpleOpAmp72_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp72_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=4e-6 W=17e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=523e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=366e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=580e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=38e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=505e-6
mNormalTransistorNmos10 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=366e-6
mNormalTransistorNmos11 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=16e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=135e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=135e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=523e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=17e-6
mNormalTransistorPmos16 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=5e-6 W=580e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=47e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=47e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=88e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=88e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=5e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp72_5

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 9.39201 mW
** Area: 14997 (mu_m)^2
** Transit frequency: 35.6681 MHz
** Transit frequency with error factor: 35.6237 MHz
** Slew rate: 50.9855 V/mu_s
** Phase margin: 55.004°
** CMRR: 105 dB
** VoutMax: 3 V
** VoutMin: 0.160001 V
** VcmMax: 4.70001 V
** VcmMin: 1.40001 V


** Expected Currents: 
** NormalTransistorNmos: 9.23901 muA
** NormalTransistorNmos: 22.1751 muA
** NormalTransistorPmos: -232.605 muA
** NormalTransistorPmos: -383.59 muA
** NormalTransistorPmos: -232.605 muA
** NormalTransistorPmos: -383.59 muA
** DiodeTransistorNmos: 232.606 muA
** NormalTransistorNmos: 232.606 muA
** NormalTransistorNmos: 301.97 muA
** DiodeTransistorNmos: 301.971 muA
** NormalTransistorNmos: 150.985 muA
** NormalTransistorNmos: 150.985 muA
** NormalTransistorNmos: 1069.82 muA
** NormalTransistorPmos: -1069.81 muA
** DiodeTransistorPmos: -1069.81 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -9.23999 muA
** NormalTransistorPmos: -9.24099 muA
** DiodeTransistorPmos: -22.1759 muA
** DiodeTransistorPmos: -22.1749 muA


** Expected Voltages: 
** ibias: 1.14101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.46301  V
** out: 2.5  V
** outFirstStage: 0.563001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXnXX1: 0.571001  V
** outSourceVoltageBiasXXpXX1: 3.71501  V
** outSourceVoltageBiasXXpXX2: 3.73501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceGCC1: 3.76801  V
** sourceGCC2: 3.76801  V
** sourceTransconductance: 1.83701  V
** inner: 0.569001  V
** inner: 3.71601  V


.END