** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp8_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos2 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=148e-6
mNormalTransistorNmos3 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos4 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=50e-6
mNormalTransistorNmos5 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=50e-6
mNormalTransistorNmos6 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=61e-6
mNormalTransistorPmos7 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=593e-6
mNormalTransistorPmos8 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=148e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp8_7

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 6.69101 mW
** Area: 3605 (mu_m)^2
** Transit frequency: 34.9501 MHz
** Transit frequency with error factor: 34.8858 MHz
** Slew rate: 37.0333 V/mu_s
** Phase margin: 55.577°
** CMRR: 95 dB
** negPSRR: 156 dB
** posPSRR: 93 dB
** VoutMax: 4.66001 V
** VoutMin: 0.220001 V
** VcmMax: 4.5 V
** VcmMin: 0.790001 V


** Expected Currents: 
** DiodeTransistorPmos: -60.1869 muA
** NormalTransistorPmos: -60.1869 muA
** NormalTransistorNmos: 120.373 muA
** NormalTransistorNmos: 60.1861 muA
** NormalTransistorNmos: 60.1861 muA
** NormalTransistorNmos: 1207.91 muA
** NormalTransistorPmos: -1207.9 muA
** DiodeTransistorNmos: 9.99901 muA


** Expected Voltages: 
** ibias: 0.622001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.09701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.09701  V
** sourceTransconductance: 1.92601  V


.END