** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=6e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=9e-6 W=25e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=570e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=536e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=5e-6 W=251e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=10e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=50e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=50e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=5e-6 W=251e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=23e-6
mNormalTransistorPmos13 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=5e-6 W=570e-6
mNormalTransistorPmos14 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=309e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=11e-6
mNormalTransistorPmos16 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=309e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=9e-6 W=469e-6
mNormalTransistorPmos18 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=5e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_5

** Expected Performance Values: 
** Gain: 106 dB
** Power consumption: 6.27801 mW
** Area: 14989 (mu_m)^2
** Transit frequency: 61.5461 MHz
** Transit frequency with error factor: 61.4862 MHz
** Slew rate: 71.9823 V/mu_s
** Phase margin: 60.7336°
** CMRR: 105 dB
** negPSRR: 106 dB
** posPSRR: 234 dB
** VoutMax: 3.01001 V
** VoutMin: 0.150001 V
** VcmMax: 3.80001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 8.94301 muA
** NormalTransistorPmos: -4.48699 muA
** NormalTransistorPmos: -9.38199 muA
** NormalTransistorNmos: 95.6621 muA
** NormalTransistorNmos: 95.6631 muA
** NormalTransistorNmos: 95.6641 muA
** NormalTransistorNmos: 95.6631 muA
** NormalTransistorPmos: -191.324 muA
** NormalTransistorPmos: -95.6629 muA
** NormalTransistorPmos: -95.6629 muA
** NormalTransistorNmos: 1021.4 muA
** NormalTransistorPmos: -1021.39 muA
** DiodeTransistorPmos: -1021.4 muA
** DiodeTransistorNmos: 4.48601 muA
** DiodeTransistorNmos: 9.38101 muA
** DiodeTransistorPmos: -8.94399 muA
** NormalTransistorPmos: -8.94499 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.98501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.708001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 2.45001  V
** outSourceVoltageBiasXXpXX1: 3.72501  V
** outVoltageBiasXXnXX0: 0.635001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack1Load1: 0.153001  V
** innerTransistorStack2Load1: 0.153001  V
** sourceTransconductance: 3.25  V
** inner: 3.71801  V


.END