** Name: SimpleTwoStageOpAmp_SimpleOpAmp10_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp10_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos2 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=108e-6
mDiodeTransistorPmos3 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=219e-6
mNormalTransistorNmos4 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=557e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=600e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=24e-6
mNormalTransistorNmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=24e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=380e-6
mNormalTransistorPmos9 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos10 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=437e-6
mNormalTransistorPmos11 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=219e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp10_7

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 7.69501 mW
** Area: 5510 (mu_m)^2
** Transit frequency: 25.6781 MHz
** Transit frequency with error factor: 25.5811 MHz
** Slew rate: 45.3298 V/mu_s
** Phase margin: 55.004°
** CMRR: 92 dB
** negPSRR: 115 dB
** posPSRR: 90 dB
** VoutMax: 4.76001 V
** VoutMin: 0.150001 V
** VcmMax: 4.40001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 548.284 muA
** DiodeTransistorPmos: -190.145 muA
** NormalTransistorPmos: -190.145 muA
** NormalTransistorPmos: -190.145 muA
** NormalTransistorNmos: 380.29 muA
** NormalTransistorNmos: 190.146 muA
** NormalTransistorNmos: 190.146 muA
** NormalTransistorNmos: 600.477 muA
** NormalTransistorPmos: -600.476 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -548.283 muA


** Expected Voltages: 
** ibias: 0.558001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.19901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 4.47001  V
** out1: 4.21501  V
** sourceTransconductance: 1.34501  V


.END